US08871790B2
Compound 39.1. 3-Formyl-4-methylbenzoic acid
To a stirred solution of 3-bromo-4-methylbenzoic acid (2.14 g, 10.00 mmol, 1.00 equiv) in tetrahydrofuran (30 mL) under nitrogen at −78° C. was added n-BuLi (10 mL, 2.5 M in THF, 2.50 equiv) dropwise. After stirring for 1 h below −70° C., DMF (5 mL) was slowly added. The resulting solution was warmed slowly to room temperature and stirred for 1 h. After carefully quenching the reaction by slowly adding 50 mL of water, the pH was adjusted to ˜3-4 using aqueous HCl (6 M). The resulting mixture was extracted with 2×50 mL of ethyl acetate and the combined organic layers were dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield 1.6 g (98%) of the title compound as a yellow solid.

reactant | 3-bromo-4-methylbenzoic acid | 10.00 mmol, 2.14 g, 1.00 equiv | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | n-BuLi | 2.5 M, 10 mL, 2.50 equiv | [Li]CCCC
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | HCl | 6 M | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 3-Formyl-4-methylbenzoic acid | 1.6 g, 98% | C(=O)C=1C=C(C(=O)O)C=CC1C | C9H8O3
